US05049674
Preparation of 4-cyclopropylmethoxy-2-chloromethylpyridine hydrochloride
4-cyclopropylmethoxy-2-hydroxymethylpyridine (93% pure) (0.9 g 0.0046 mol) was dissolved in methylene chloride (10 ml) and cooled to 0° C. SOCl2 (0.5 ml, 0.0069 mol) in methylene chloride (5 ml) was added dropwise at 0° C. and the reaction mixture was stirred 15 min at room temperature. Isopropanol (0.5 ml) was added and the mixture was evaporated giving the desired product (0.68 g, 78%). NMR data is given below.

reactant | 4-cyclopropylmethoxy-2-hydroxymethylpyridine | 0.0046 mol, 0.9 g | C1(CC1)COC1=CC(=NC=C1)CO | C10H13NO2
reactant | SOCl2 | 0.0069 mol, 0.5 ml | O=S(Cl)Cl | Cl2OS
reactant | Isopropanol | 0.5 ml | C(C)(C)O | C3H8O
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | 4-cyclopropylmethoxy-2-chloromethylpyridine hydrochloride | 0.68 g, 78% | Cl.C1(CC1)COC1=CC(=NC=C1)CCl | InChI=1S/C10H12ClNO.ClH/c11-6-9-5-10(3-4-12-9)13-7-8-1-2-8;/h3-5,8H,1-2,6-7H2;1H
